US04324796
27 g of 2-methylene-5-phenylvaleric acid chloride are added dropwise to a solution of 100 ml of sec.-butanol and 20 ml of triethylamine in 300 ml of diethyl ether at 25° to 30°. When the addition is complete, the obtained mixture is stirred at room temperature for another hour; 500 ml of ice water are then added and the mixture is shaken thoroughly. The organic phase is collected, dried over sodium sulfate and concentrated. 19.5 g of 2-methylene-5-phenylvaleric acid sec.-butyl ester (b.p. 115° to 126° under 0.01 mm Hg) are obtained.

reactant | 2-methylene-5-phenylvaleric acid chloride | 27 g | C=C(C(=O)Cl)CCCC1=CC=CC=C1 | C12H13ClO
reactant | sec.-butanol | 100 ml | C(C)(CC)O | C4H10O
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2-methylene-5-phenylvaleric acid sec.-butyl ester | 19.5 g | C(C)(CC)OC(C(CCCC1=CC=CC=C1)=C)=O | C16H22O2
